US04980356
The procedure is as in Example 8, starting with 2-imino-3-[2-(2-pyrimidinylthio)ethyl]-6-trifluoromethoxybenzothiazoline (0.5 g) and meta-chloroperbenzoic acid (90% pure by weight) (1 g) dissolved in chloroform (20 cc). The reaction mixture is stirred for 1 hour at a temperature in the region of 20° C. and then concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by flash chromatography on a silica column under a stream of nitrogen at moderate pressure (0.5-1.5 bars), with a mixture of ethyl acetate and methanol (95:5 by volume) as eluent. 2-Imino-3-[2-(2-pyrimidinylsulphinyl)ethyl]-6-trifluoromethoxybenzothiazoline (0.35 g), m.p. 120° C., is isolated.

reactant | 2-imino-3-[2-(2-pyrimidinylthio)ethyl]-6-trifluoromethoxybenzothiazoline | 0.5 g | N=C1SC2=C(N1CCSC1=NC=CC=N1)C=CC(=C2)OC(F)(F)F | C14H11F3N4OS2
reactant | meta-chloroperbenzoic acid | 1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-Imino-3-[2-(2-pyrimidinylsulphinyl)ethyl]-6-trifluoromethoxybenzothiazoline | 0.35 g | N=C1SC2=C(N1CCS(=O)C1=NC=CC=N1)C=CC(=C2)OC(F)(F)F | C14H11F3N4O2S2
